US06927228B2
(d) N-(3-Bromo benzyl)-N-methylbenzamide
9 g (45 mmol) of (3-bromo benzyl)methylamine, 90 ml of THF and 6.9 ml (50 mmol) of triethylamine are introduced into a round-bottomed flask under a stream of nitrogen. 5.7 ml (50 mmol) of benzoyl chloride are added dropwise and the mixture is stirred for one hour. The reaction medium is poured into water and extracted with dichloromethane, and the organic phase is separated out after settling of the phases has taken place, washed with water, dried over magnesium sulfate and evaporated. The residue obtained is purified by chromatography on a column of silica eluded with a mixture of ethyl acetate and heptane (15/85). After evaporation of the solvents, 13.7 g (64%) of the expected product are collected.

reactant | (3-bromo benzyl)methylamine | 45 mmol, 9 g | BrC=1C=C(CCN)C=CC1 | C8H10BrN
reactant | THF | 90 ml | C1CCOC1 | C4H8O
reactant | triethylamine | 50 mmol, 6.9 ml | C(C)N(CC)CC | C6H15N
reactant | benzoyl chloride | 50 mmol, 5.7 ml | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | water | O | H2O
product | N-(3-Bromo benzyl)-N-methylbenzamide | BrC=1C=C(CN(C(C2=CC=CC=C2)=O)C)C=CC1 | C15H14BrNO
